US04288385
Preparation of {5-[(1-Ethylpropyl)amino]-4,6-dinitro-o-tolyl}acetamide
A sample of {5-[(1-ethylpropyl)amino]-4,6-dinitro-o-tolyl}acetonitrile (4.25 g; 0.014 mol) is added to warm t-butanol (40°-45° C.; 50 ml) followed by finely powdered potassium hydroxide (9.0 g; 0.16 mol). Additional t-butanol (20 ml) is added, and the reaction mixture heated at the reflux overnight. The reaction mixture is then cooled, diluted with 200 ml salt solution, and filtered to give 2.5 g (55%) of an orange solid, melting point 192°-194° C. A sample is recrystallized from methanol for analysis, melting point 194°-196° C.

reactant | {5-[(1-ethylpropyl)amino]-4,6-dinitro-o-tolyl}acetonitrile | 0.014 mol, 4.25 g | C(C)C(CC)NC=1C(=CC(=C(C1[N+](=O)[O-])C)CC#N)[N+](=O)[O-] | C14H18N4O4
reactant | potassium hydroxide | 0.16 mol, 9.0 g | [OH-].[K+]
solvent | t-butanol | 20 ml | C(C)(C)(C)O | C4H10O
solvent | t-butanol | 50 ml | C(C)(C)(C)O | C4H10O
product | {5-[(1-Ethylpropyl)amino]-4,6-dinitro-o-tolyl}acetamide | 2.5 g, 55% | C(C)C(CC)NC=1C(=CC(=C(C1[N+](=O)[O-])C)CC(=O)N)[N+](=O)[O-] | C14H20N4O5
